US06037495
Synthesis of 2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide
A mixture of 2-(2-acetoxymethylphenyl)-2-oxoacetamide (1.56 g), 95% hydroxylamine hydrochloride (0.62 g), potassium acetate (1.34 g) and methanol (14 ml) was heated under reflux with stirring for 18 hours. After the mixture was cooled by allowing it to stand, water (about 150 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate three times. The combined ethyl acetate layer was washed with saturated brine and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave the crude product (1.55 g). The crude product was purified by column chromatography on silica gel (ethyl acetate:hexane=2:1) to give the title compound (1.18 g, yield: 70.9%) as a mixture of the E- and Z-isomers (E:Z=65:35 determined by 1H-NMR analysis).

reactant | 2-(2-acetoxymethylphenyl)-2-oxoacetamide | 1.56 g | C(C)(=O)OCC1=C(C=CC=C1)C(C(=O)N)=O | C11H11NO4
reactant | hydroxylamine hydrochloride | 0.62 g | Cl.NO
reactant | potassium acetate | 1.34 g | C(C)(=O)[O-].[K+]
reactant | methanol | 14 ml | CO | CH4O
solvent | water | about 150 ml | O | H2O
product | 2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide | 1.18 g, yield: 70.9% | C(C)(=O)OCC1=C(C=CC=C1)C(C(=O)N)=NO | C11H12N2O4
